US07022825B2
B. Preparation of (4S)-N-[(2S,3R)-2-vinyl-3-hydroxypentanoyl]-4-benzyl-2-oxazolidinone:
A solution of 2.45 g of (4S)-N-crotonyl-4-benzyl-2-oxazolidinone in 10 ml of anhydrous CH2Cl2 was cooled to −78° C., and 1.7 ml of triethylamine was added followed by 10.5 ml of a 1 M solution of dibutylboron triflate in CH2Cl2. After 30 minutes, the reaction was warmed to 0° C., kept for 20 minutes, then recooled to −78° C. Propionaldehyde (0.9 ml) was added, and the reaction was allowed to slowly warm to ambient temperature over 16 hours. Standard oxidative workup yielded the product (1.98 g, 65% yield) after chromatography (2:1 hexane/ethyl acetate). 1H-NMR (360 MHz, CDCl3): δ 7.2–7.35 (m,5H); 6.02 (1H,m); 5.41 (m,2H); 4.72 (m,1H); 4.58 (dd,1H); 4.20 (m,2H); 3.92 (m,1H); 3.25 (dd,1H); 2.98 (br s, 1H); 2.76 (dd,1H); 1.53 (m,2H); 0.98 (t,3H).

reactant | (4S)-N-crotonyl-4-benzyl-2-oxazolidinone | 2.45 g | C(\C=C\C)(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O | C14H15NO3
reactant | triethylamine | 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | dibutylboron triflate | [O-]S(=O)(=O)C(F)(F)F.C(CCC)[B+]CCCC
reactant | Propionaldehyde | 0.9 ml | C(CC)=O | C3H6O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | (4S)-N-[(2S,3R)-2-vinyl-3-hydroxypentanoyl]-4-benzyl-2-oxazolidinone | 1.98 g, 65% yield | C(=C)[C@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)[C@@H](CC)O | C17H21NO4
